US08022076B2
In a 10 ml glass tube were placed 2-chloro-N-(2-pyridyl)methyl-5-phenylthieno[2,3-d]pyrimidin-4-ylamine (0.03 g, 0.0852 mmol) and cyclopropylmethylamine (0.5 ml). The vessel was sealed with a septum and placed in the microwave cavity. Microwave irradiation of 200 W was used, the temperature being ramped from room temperature to 200° C. Once 200° C. was reached, the reaction mixture was held at this temperature for 40 minutes. After cooling to ambient temperature, water (4 ml) was added and the mixture stirred for 2.5 hours. The resulting solid was collected by filtration, washed with water and dried under reduced pressure to give N2-Cyclopropylmethyl-5-phenyl-N4-pyridin-2-ylmethyl-thieno[2,3-d]pyrimidine-2,4-diamine (0.025 g) as a yellow solid, m.p.t. 109-111° C.

reactant | 2-chloro-N-(2-pyridyl)methyl-5-phenylthieno[2,3-d]pyrimidin-4-ylamine | 0.0852 mmol, 0.03 g | ClC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)NCC2=NC=CC=C2 | C18H13ClN4S
reactant | cyclopropylmethylamine | 0.5 ml | C1(CC1)CN | C4H9N
solvent | water | 4 ml | O | H2O
product | N2-Cyclopropylmethyl-5-phenyl-N4-pyridin-2-ylmethyl-thieno[2,3-d]pyrimidine-2,4-diamine | 0.025 g | C1(CC1)CNC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)NCC2=NC=CC=C2 | C22H21N5S
